US07199155B2
To a solution of 0.50 g (3.012 mmol) of methyl 2-hydroxy-3-methyl-benzoate in 20 mL of tetrahydrofuran (THF) is added 0.133 g (3.313 mmol) of a 60% oil dispersion of sodium hydride. The reaction mixture is stirred for 1 h at room temperature and then 0.739 g (3.012 mmol) of 4-but-2-ynyloxy benzenesulfonyl chloride is added. The resulting mixture is stirred at room temperature for 15 h and then quenched with saturated ammonium chloride solution. The resulting mixture is extracted with ether and the combined organics are then washed with water and brine. The organic layer is then dried over MgSO4, filtered and concentrated in vacuo. The residue is chromatographed on silica gel eluting with ethyl acetate/hexanes (1:3) to provide 0.93 g (83%) of methyl 2-({[4-(2-butynyloxy)phenyl]sulfonyl}oxy)-3-methylbenzoate as a white solid. Electrospray Mass Spec: 374.8 (M+H)+

reactant | methyl 2-hydroxy-3-methyl-benzoate | 3.012 mmol, 0.50 g | OC1=C(C(=O)OC)C=CC=C1C | C9H10O3
reactant | sodium hydride | [H-].[Na+]
reactant | 4-but-2-ynyloxy benzenesulfonyl chloride | 3.012 mmol, 0.739 g | C(C#CC)OC1=CC=C(C=C1)S(=O)(=O)Cl | C10H9ClO3S
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | methyl 2-({[4-(2-butynyloxy)phenyl]sulfonyl}oxy)-3-methylbenzoate | 0.93 g, 83% | C(C#CC)OC1=CC=C(C=C1)S(=O)(=O)OC1=C(C(=O)OC)C=CC=C1C | C19H18O6S
